US09376442B2
tert-Butyl (3r,4r)-3-{[(4-[2-(cyclopropylmethoxy)-4-fluorophenyl]-6-methyl-5-{[2-(trimethylsilyl)ethoxy]methyl}-5H-pyrrolo[3,2-d]pyrimidin-7-yl)carbonyl]amino}-4-hydroxypyrrolidine-1-carboxylate
Starting from 4-[2-(cyclopropylmethoxy)-4-fluorophenyl]-6-methyl-5-{[2-(trimethylsilyl)ethoxy]methyl}-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (example D.c2) and commercially available tert-butyl (3R*,4R*)-3-amino-4-hydroxy-pyrrolidine-1-carboxylate the title compound is obtained as pale yellow viscous oil.

reactant | 4-[2-(cyclopropylmethoxy)-4-fluorophenyl]-6-methyl-5-{[2-(trimethylsilyl)ethoxy]methyl}-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid | C1(CC1)COC1=C(C=CC(=C1)F)C=1C2=C(N=CN1)C(=C(N2COCC[Si](C)(C)C)C)C(=O)O | C24H30FN3O4Si
reactant | tert-butyl (3R*,4R*)-3-amino-4-hydroxy-pyrrolidine-1-carboxylate | N[C@@H]1CN(C[C@H]1O)C(=O)OC(C)(C)C | C9H18N2O3
product | tert-Butyl (3r,4r)-3-{[(4-[2-(cyclopropylmethoxy)-4-fluorophenyl]-6-methyl-5-{[2-(trimethylsilyl)ethoxy]methyl}-5H-pyrrolo[3,2-d]pyrimidin-7-yl)carbonyl]amino}-4-hydroxypyrrolidine-1-carboxylate | C1(CC1)COC1=C(C=CC(=C1)F)C=1C2=C(N=CN1)C(=C(N2COCC[Si](C)(C)C)C)C(=O)N[C@@H]2CN(C[C@H]2O)C(=O)OC(C)(C)C | C33H46FN5O6Si
